US05374632
A solution of 116 mg of 1-(8-methyl-1,2,4-triazolo-[4,3-b]pyridazin-6-yl)-1,4,5,6-tetrahydro-4-pyridinol in 15 ml of dichloromethane was treated with 500 ml of manganese dioxide and heated to reflux. The mixture was refluxed for 64 hours and the solids were filtered off through Celite and washed well with fresh hot dichloromethane. Evaporation of the solvent from the filtrate gave 2,3-dihydro-1-(8-methyl-1,2,4-triazolo [4,3-b]pyridazin-6-yl)-4(1H)-pyridinone melting at about 264°-266° C. with decomposition. Crystallization of a portion of this material from methanol gave a purified product as pale yellow needles melting at about 270.5°-271.5° C. with decomposition. This material was identical with the product obtained in Example 5.

reactant | 1-(8-methyl-1,2,4-triazolo-[4,3-b]pyridazin-6-yl)-1,4,5,6-tetrahydro-4-pyridinol | 116 mg | CC=1C=2N(N=C(C1)N1C=CC(CC1)O)C=NN2 | C11H13N5O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 500 ml | [O-2].[O-2].[Mn+4]
product | 2,3-dihydro-1-(8-methyl-1,2,4-triazolo [4,3-b]pyridazin-6-yl)-4(1H)-pyridinone | CC=1C=2N(N=C(C1)N1CCC(C=C1)=O)C=NN2 | C11H11N5O
